US05840732
To a solution of 1.59 g (7.0 mmol) of 5-(4-hydroxybutyl)imidazo[1,2-a]pyridine hydrochloride and 2.25 ml (16 mmol) of triethylamine in 30 ml of dichloromethane, 0.62 ml (8.0 mmol) of methanesulfonyl chloride was added at 0° C. After stirring at room temperature for 1 hour, saturated aqueous sodium hydrogen carbonate was added. The reaction mixture was extracted with dichloromethane and dried, after which the solvent was distilled off to yield 5-(4-methanesulfonyloxybutyl)imidazo[1,2-a]pyridine.

reactant | 5-(4-hydroxybutyl)imidazo[1,2-a]pyridine hydrochloride | 7.0 mmol, 1.59 g | Cl.OCCCCC1=CC=CC=2N1C=CN2
reactant | triethylamine | 16 mmol, 2.25 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 8.0 mmol, 0.62 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 5-(4-methanesulfonyloxybutyl)imidazo[1,2-a]pyridine | CS(=O)(=O)OCCCCC1=CC=CC=2N1C=CN2 | C12H16N2O3S
